** Sheet_1 **
R14 R14_1 A1 15K
C31 A1 R14_1 120PF
C30 A1 C30_2 1.5PF
R13 A1 C30_2 750K
C25 R14_1 A1 510PF
C29 C29_1 A1 510PF
C28 C29_1 A1 47PF
R16 C29_1 A1 18K
R12 GND R12_2 75K
C23 VIN SW 10UF
R11 GND R11_2 75K
C21 R12_2 VIN 10PF
R6 VIN R12_2 1M
XU1 R14_1 C30_2 VIN SW R11_2 GND -V GND AZ AY AX NoNet C29_1 SW SW V+ HC4053
C24 A1 C30_2 10PF
V1 V+ GND 3.3
V2 GND -V 3.3
VXU3 AZ  GND 5
V3 AP GND 0
VXU4 AY  GND 5
VXU5 AX  GND 5
V4 V4_1 GND 1
R1 V4_1 VIN 9MEG
C1 V4_1 VIN 10P
C2 C2_1 AO 33PF
C3 C2_1 GND 100NF
R2 C2_1 AO 2K
XU2 A1 SW GND -V U2_5 C2_1 AO V+ LMH6643MAX/NOPB
R3 C2_1 A1 1K
R4 U2_5 AP 1K








.tran 10m
