
** Sheet_1 **
.inc spice/HC4053.cir
.inc spice/LMH6643.MOD
C29 C29_1 A1 510PF
C28 C29_1 A1 47PF
R16 C29_1 A1 18K
R12 GND R12_2 75K
C23 VIN SW 10UF
R11 GND R11_2 75K
C21 R12_2 VIN 10PF
R6 VIN R12_2 1M
XU1 U1_1 U1_2 VIN SW R11_2 GND -V GND AZ AY AX NoNet C29_1 SW SW V+ HC4053
V1 V+ GND 3.3
V2 GND -V 3.3
VXU3 AZ  GND 5
V3 AP GND 0
VXU4 AY  GND 5
VXU5 AX  GND 5
V4 V4_1 GND 1
R1 V4_1 VIN 9MEG
C1 V4_1 VIN 10P
C2 C2_1 AO 33PF
C3 C2_1 GND 100NF
R2 C2_1 AO 2K
XU2 SW GND V+ -V A1 LMH6643
XU3 C2_1 U3_5 V+ -V AO LMH6643
R3 C2_1 A1 1K
R4 U3_5 AP 1K
R13 A1 U1_2 1.5M
C9 A1 U1_2 7PF
C24 U1_1 A1 33PF
R14 A1 U1_1 330K





.tran 10m
